US08563575B2
70c) 1-ethyl-3-[1-(5-methylpyridin-2-yl)-1H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of 3-[1-(5-methylpyridin-2-yl)-1H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (70 mg) and iodoethane (35.1 mg) in DMF (2 mL) was stirred at 50° C. for 3 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel eluting with AcOEt/Hexane. The product was crystallized from AcOEt/Hexane to give the title compound as white crystals (25.0 mg).

reactant | 3-[1-(5-methylpyridin-2-yl)-1H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 70 mg | CC=1C=CC(=NC1)N1N=CC2=CC(=CC=C12)N1C(NC=2C1=NC=CC2)=O | C19H14N6O
reactant | iodoethane | 35.1 mg | ICC | C2H5I
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-3-[1-(5-methylpyridin-2-yl)-1H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 25.0 mg | C(C)N1C(N(C2=NC=CC=C21)C=2C=C1C=NN(C1=CC2)C2=NC=C(C=C2)C)=O | C21H18N6O
